US07262212B2
4-(Trifluoromethoxy)thiophenol (2.0 g, 10.3 mmol) was dissolved in THF (30 ml), and this solution was cooled in an ice-bath. To which sodium hydride (453 mg, 11.3 mmol) was added, and the mixture was stirred for 30 minutes. To which tert-butyl 4-(toluene-4-sulfonyloxy)piperidine-1-carboxylate (3.66 g, 10.3 mmol) prepared in Reference Example 137 was added, and the resulting mixture was stirred at room temperature for 30 minutes, and then heated under reflux for 1 hour. Water was added to the reaction mixture, and the mixture was extracted with methylene chloride. The extract was dried over magnesium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl chloride=20/1) to afford tert-butyl 4-(4-trifluoromethoxyphenylsulfanyl)piperidine-1-carboxylate (3.12 g, yield 80%) as a colorless oil.

reactant | 4-(Trifluoromethoxy)thiophenol | 10.3 mmol, 2.0 g | FC(OC1=CC=C(C=C1)S)(F)F | C7H5F3OS
reactant | sodium hydride | 11.3 mmol, 453 mg | [H-].[Na+]
reactant | tert-butyl 4-(toluene-4-sulfonyloxy)piperidine-1-carboxylate | 10.3 mmol, 3.66 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)C | C17H25NO5S
reactant | Water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-trifluoromethoxyphenylsulfanyl)piperidine-1-carboxylate | 3.12 g, yield 80% | FC(OC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C17H22F3NO3S
